US07282588B2
3-(4-nitrophenyl)-1-(2-hydroxyethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
In a sealed pressure tube was added 3-(4-nitrophenyl)-1-(2-hydroxyethyl)-4-bromo-1H-pyrazole (11.1 mmol), bis(pinacolato)diboron (13.8 mmol), potassium acetate (35.6 mmol), dichlorobis(triphenylphosphine)palladium(II) (0.5 mmol), and dioxane (60 mL). The reaction was purged with nitrogen, capped, stirred and heated to 100° C. for 8 h. After cooling to room temperature the reaction was evaporated to dryness under vacuum, taken up in ethyl acetate, filtered to remove insolubles, and concentrated under vacuum. Purification by flash chromatography on silica gel (75% ethyl acetate, n-hexane) gave the title compound as an off-white solid (45%). ESMS [M+H]+: 359.2

reactant | 3-(4-nitrophenyl)-1-(2-hydroxyethyl)-4-bromo-1H-pyrazole | 11.1 mmol | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=C1Br)CCO | C11H10BrN3O3
reactant | bis(pinacolato)diboron | 13.8 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 35.6 mmol | C(C)(=O)[O-].[K+]
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.5 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 3-(4-nitrophenyl)-1-(2-hydroxyethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 45% | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=C1B1OC(C(O1)(C)C)(C)C)CCO | C17H22BN3O5
